2167-09-12 08:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-9-11**] 11:32 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-12**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 96 (91 - 104) bpm
   BP: 151/79(95) {118/60(74) - 161/83(100)} mmHg
   RR: 37 (23 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     90 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                     90 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    600 mL
   Urine:
                                                                    450 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   287 K/uL
   11.6 g/dL
   214 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.5 mEq/L
   13 mg/dL
   100 mEq/L
   135 mEq/L
   32.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2167-9-12**]  12:39 AM
   WBC
   11.6
   Hct
   32.7
   Plt
   287
   Cr
   1.4
   Glucose
   214
   Other labs: Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment and Plan: This is a 41 y.o. African American Male w/ OSA on
   CPAP, HTN, Asthma p/w fevers, SOB, hemoptysis, transferred to ICU for
   hypoxia, lobar consolidation.
   .
   ##. Hypoxia: Based on initial ABG, large A-a gradient noted. I suspect
   his hypoxia is due to a combination of hypoventilation as well as
   physiological shunt. Given pt's body habitus, h.o. of CPAP use suspect
   pt does have soem obesity hypoventilation syndrome. This coupled with
   his consolidation versus lobar collapse which provides a shunt is
   likely responsible for his A-a gradient and hypoxia. Pt transferred to
   the ICU given his hypoxia, CTA shows no large PE (would suspect large
   PE in case of such hypoxia).
   - will continue to monitor in the ICU
   - Pt cannot remember if was on BiPAP versus CPAP. Will set on autosat
   CPAP for now and monitor O2 sat. If pt continues to have problems with
   saturation will consider BiPAP versus intubation
   - given ?lobar consolidation and hypoxia will expand pt's abx coverage.
   Will d/c Vancoymcin and start on Ceftriaxone with Levofloxacin
   - will continue on Albuterol nebs q2hr PRN
   - will keep NPO overnight
   - check X-ray in the AM
   - will recheck ABG if respiratory status changes
   .
   ##. Hemoptysis: Pt was transferred from floor to ICU given concern of
   hemoptysis and hypoxia. On discussion with the pt hemoptysis has been 1
   tablespoon and occurs with his cough. Given low rate of blood flow
   suspect blood is from pulmonary circulation. On review of CT scan
   appears to be consolidation versus hemorrhage given heterogeneity.
   Hemoptysis likely from PNA, CTA already negative for P. Embolism,
   tumour burden. Although pt has history of Cocaine and Heroin use he
   denies any recent smoking of Cocaine. Pt not recently exposed to anyone
   with TB, has distant history of being in prison.
   - will continue to monitor amount of hemoptysis
   - will consider intubation for airway protection if gross hemoptysis
   - will continue on aforementioned abx Ceftriaxone/Levofloxacin
   - will continue on scheduled Benzonatate
   - will place PPD today
   - will consider possible bronchoscopy when pt's breathing status has
   improved
   .
   ##. Acuite Kidney Injury: Pt's Creatinine on admission elevated at 1.5
   but trending down, likely pre-renal due to increased insensible losses
   from fever.
   - Will monitor UOP
   - trend Creatinine
   .
   ##. HTN: Will continuie on home regimen of Clonidine,
   .
   ##. PSYCH: Pt has h.o. Bipolar d.o., depression, will continue on home
   regimen of Citalopram and Buproprion. Will hold off on Trazadone given
   pt's hypoxia.
   - will restart Trazadone when hypoxia improves
   .
   ##. OSA: Pt not sure if he is on CPAP versus BiPAP at home. Will
   continue on autoset CPAP at this time and advance pending pt's clinical
   respiratory status.
   .
   ##. FEN: Will keep NPO at night and give IVF PRN. Replete lytes PRN
   .
   ##. PPx: Will place on sequential compression devices given hemoptysis.
   .
   ##. COMMUNICATION:patient,wife, PCP
   .
   ##. CODE:Full
   .
   ##. DISPO: Pending resolution of symptoms.
   .
   [**Doctor Last Name 4047**], PGY-2
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-9-12**] 04:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-09-12 08:52:00 Physician Attending Progress Note
Chief Complaint: Hypoxemi respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels better this AM
   24 Hour Events:
   Did well overnight on CPAP
   Now on high flow mask
   Scant hemoptysis overnight
   History obtained from Patient, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-9-11**] 11:32 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Cough, Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-9-12**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 96 (91 - 104) bpm
   BP: 151/79(95) {118/60(74) - 161/83(100)} mmHg
   RR: 37 (23 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     90 mL
                                                                    693 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                     90 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    600 mL
   Urine:
                                                                    450 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender, protuberant
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversant,
   pleasant
   Labs / Radiology
   11.6 g/dL
   287 K/uL
   214 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.5 mEq/L
   13 mg/dL
   100 mEq/L
   135 mEq/L
   32.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2167-9-12**]  12:39 AM
   WBC
   11.6
   Hct
   32.7
   Plt
   287
   Cr
   1.4
   Glucose
   214
   Other labs: Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   41 yo man with OSA, on BiPap here with hypoxemic respiratory failure,
   pneumonia.
   1. Hypoxemic respiratory failure: Did well on CPAP overnight \, now on
   high-flow mask and looking bwetter.
   2. CAP: Cont CTX and levofloxacin.  Low threshold to restart vanc if he
   worsens
   3. Hempotysis: Now improved.  Will hold on bronch for moment - likely
   hemotysis in setting of respiratory infection
   4. [**Last Name (un) **]: Cr slowly trending down, U/O adequate
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-9-12**] 04:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2167-09-13 07:53:00 Physician Resident Progress Note
Chief Complaint: Assessment and Plan: This is a 41 y.o. African
   American Male w/ OSA on CPAP, HTN, Asthma p/w fevers, SOB, hemoptysis,
   transferred to ICU for hypoxia, lobar consolidation.
   24 Hour Events:
   -Stable during the day.
   -Remained on oxygen facemask, but very comfortable, feeling well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-9-11**] 11:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-9-12**] 10:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-9-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 92 (86 - 96) bpm
   BP: 138/81(95) {120/56(74) - 160/92(103)} mmHg
   RR: 27 (18 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,700 mL
                                                                    554 mL
   PO:
                                                                    960 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    740 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                  1,000 mL
   Urine:
                                                                  1,750 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                   -446 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Aroused from sleep, somnolent but arousable.  Alert and oriented.
   Distant breath sounds, difficult to hear.
   RRR, no MRG, distant heart sounds.
   Abdomen obese, soft, non-tender.
   2+ pedal pulses.
   Labs / Radiology
   287 K/uL
   11.6 g/dL
   155 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   12 mg/dL
   103 mEq/L
   141 mEq/L
   32.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2167-9-12**]  12:39 AM
                            [**2167-9-13**]  03:12 AM
   WBC
   11.6
   Hct
   32.7
   Plt
   287
   Cr
   1.4
   1.2
   Glucose
   214
   155
   Other labs: Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment and Plan: This is a 41 y.o. African American Male w/ OSA on
   CPAP, HTN, Asthma p/w fevers, SOB, hemoptysis, transferred to ICU for
   hypoxia, lobar consolidation.
   .
   ##. Hypoxia: Based on initial ABG, large A-a gradient noted.  Given
   pt's body habitus, h.o. of CPAP use suspect pt does have some obesity
   hypoventilation syndrome, coupled with his PNA .  Pt transferred to the
   ICU given his hypoxia, CTA shows no PE.
   - felt well yesterday, eating well, but stayed on 80% facemask, unable
   to wean.
   - on CPAP overnight.
   - given lobar consolidation and hypoxia, treating with Levofloxacin
   - will continue on Albuterol nebs q2hr PRN
   - X ray today showed no clear change, possible increased density in R
   base
 maybe atelectasis?  No clear evolution of PNA, but difficult to
   see given retrocardiac location.
   - will recheck ABG if respiratory status worsens.
   .
   ##. Hemoptysis: Pt was transferred from floor to ICU given concern of
   hemoptysis and hypoxia.  Hemoptysis is small in quantity and likely
   from PNA, CTA already negative for P. Embolism, tumour burden.   No
   recent h/o cocaine.   Pt not recently exposed to anyone with TB, has
   distant history of being in prison.
   - continue tx of PNA
   - PPD placed in left arm
 to be assessed Sunday evening or Monday
   morning.
   - since his hemoptysis has stopped, bronchoscopy not indicated at this
   time.
   .
   ##. Acute Kidney Injury: Pt's Creatinine on admission elevated at 1.5
   but trending down, likely pre-renal due to increased insensible losses
   from fever.
   - Will monitor UOP
   - trend Creatinine
   .
   ##. HTN: Will continue on home regimen of Clonidine, Lisinopril
   .
   ##. PSYCH: Pt has h.o. Bipolar d.o., depression, will continue on home
   regimen of Citalopram and Buproprion. Will hold off on Trazadone given
   pt's hypoxia.
   - will restart Trazadone when hypoxia improves
   .
   ##. OSA: Pt not sure if he is on CPAP versus BiPAP at home. Will
   continue on autoset CPAP at this time and advance pending pt's clinical
   respiratory status.
   .
   ##. FEN: Regular diet.   Replete lytes PRN
   .
   ##. PPx: SQH
   .
   ##. COMMUNICATION:patient,wife, PCP
   .
   ##. CODE:Full
   .
   ##. DISPO: ICU for now, possible call out to floor today if continuing
   to tolerate nasal cannula.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-9-12**] 04:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU, possible PM call-out

2167-09-13 09:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Slept well on CPAP overnight
   24 Hour Events:
   Continues to need 60-80% face mask to keep sats in low 90s overnight,
   but satting in mid-90s on 5L this AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-9-11**] 11:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-9-13**] 08:42 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Dyspnea
   Genitourinary: No(t) Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-9-13**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 86 (86 - 96) bpm
   BP: 143/86(99) {120/56(74) - 160/92(103)} mmHg
   RR: 27 (18 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,700 mL
                                                                  1,049 mL
   PO:
                                                                    960 mL
                                                                    960 mL
   TF:
   IVF:
                                                                    740 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                  1,000 mL
   Urine:
                                                                  1,750 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   316 K/uL
   155 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   12 mg/dL
   103 mEq/L
   141 mEq/L
   32.9 %
   7.8 K/uL
        [image002.jpg]
                            [**2167-9-12**]  12:39 AM
                            [**2167-9-13**]  03:12 AM
                            [**2167-9-13**]  08:00 AM
   WBC
   11.6
   7.8
   Hct
   32.7
   32.9
   Plt
   287
   316
   Cr
   1.4
   1.2
   Glucose
   214
   155
   Other labs: Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: new small infiltrate at right base
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   41 yo man with OSA, on BiPap here with hypoxemic respiratory failure,
   pneumonia.
   1. Hypoxemic respiratory failure: Continues to slowly improve on nasal
   cannula this AM looking comfortable.  Still desaturating with exerting
   2. CAP: Cont CTX and levofloxacin.
   3. Hempotysis: Now improved.
   4. [**Last Name (un) **]: Cr continues to trend down
   Remainder of issues per ICU team. Could possibly transfer to the floor
   later today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-9-12**] 04:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill